US07332501B2
5-Bromo-1′-({6-chloro-1-[(3,5-difluorophenyl)sulfonyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure VII as described above, the sulphonylation of 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one with commercially available 3,5-difluorobenzenesulfonyl chloride gave the title compound.

reactant | 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CNC3=CC(=CC=C13)Cl)OC2=O | C21H16BrClN2O3
reactant | 3,5-difluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 5-Bromo-1′-({6-chloro-1-[(3,5-difluorophenyl)sulfonyl]-1H-indol-3-yl}carbonyl)-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CN(C3=CC(=CC=C13)Cl)S(=O)(=O)C1=CC(=CC(=C1)F)F)OC2=O | C27H18BrClF2N2O5S
